US04777252
(B) 4,5-Bis(phenylmethoxy)-2-pyridinecarboxylic acid
To a solution of 11.8 g (28 mmol) of 4,5-bis(phenylmethoxy)-2-pyridinecarboxylic acid, phenylmethyl ester in 115 ml of tetrahydrofuran were added 16 ml water and 35 ml of 1N potassium hydroxide. After stirring overnight at room temperature, 115 ml water was added and the pH was adjusted to 2.5 with 1N hydrochloxic acid. The acid was filtered off, washed with water and dried in vacuo. Yield: 8.6 g; melting point 203.6° C.

reactant | 4,5-bis(phenylmethoxy)-2-pyridinecarboxylic acid, phenylmethyl ester | 28 mmol, 11.8 g | C1(=CC=CC=C1)COC1=CC(=NC=C1OCC1=CC=CC=C1)C(=O)OCC1=CC=CC=C1 | C27H23NO4
reactant | water | 16 ml | O | H2O
reactant | potassium hydroxide | 1N, 35 ml | [OH-].[K+]
reactant | water | 115 ml | O | H2O
solvent | tetrahydrofuran | 115 ml | O1CCCC1 | C4H8O
product | 4,5-Bis(phenylmethoxy)-2-pyridinecarboxylic acid | C1(=CC=CC=C1)COC1=CC(=NC=C1OCC1=CC=CC=C1)C(=O)O | C20H17NO4
